US03995054
A mixture of 5.5 g. of 1,4-dihydroxybenzene, 15 g. of cyclopropane carboxylic acid chloride and 2.4 g. of magnesium in 55 ml. of dry benzene is refluxed for eight hours. The solution is then diluted with ether, washed with aqueous sodium bicarbonate, dilute aqueous hydrochloric acid, water and brine, dried over calcium sulfate, and recrystallized from ethanol/water to yield p-phenylene bis(cyclopropanecarboxylate), having a melting point of 137°. (II; p' and p" are zero, A is 1,4-phenylene).

reactant | 1,4-dihydroxybenzene | OC1=CC=C(C=C1)O | C6H6O2
reactant | cyclopropane carboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | magnesium | [Mg] | Mg
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ether | CCOCC | C4H10O
product | p-phenylene bis(cyclopropanecarboxylate) | C1(CC1)C(=O)OC1=CC=C(C=C1)OC(=O)C1CC1 | C14H14O4
